US06747032B2
Step A: 3-(3-Butenyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one
Heat a mixture of 5.7 g of methyl 2-acetyl-5-hexenoate, 3.15 g of 2-aminopyridine and 0.65 g of polyphosphoric acid at 160° C. for 2 hours. Then add, in the cold state, 30 ml of water and extract the mixture using dichloromethane. The residue obtained after evaporating off the solvent is purified by chromatography on silica gel, using a mixture of dichloromethane/methanol: 98/2 as eluant.

reactant | methyl 2-acetyl-5-hexenoate | 5.7 g | C(C)(=O)C(C(=O)OC)CCC=C | C9H14O3
reactant | 2-aminopyridine | 3.15 g | NC1=NC=CC=C1 | C5H6N2
solvent | water | 30 ml | O | H2O
product | 3-(3-Butenyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | C(CC=C)C1=C(N=C2N(C1=O)C=CC=C2)C | C13H14N2O
